US09403773B2
A tetrahydrofuran (THF) solution (20 ml) of potassium tert-butoxide (3.55 g, 31.6 mmol) was cooled in an methanol-ice bath, and 4.2 g of 2,5-difluoronitrobenzene (26.4 mmol) was further added. The mixture was heated to room temperature, stirred for 96 hours, and further stirred at 60° C. for 1 hour. Water (2 ml) and 2N-hydrochloric acid (2 ml) were added to the reaction mixture while cooling with an ice water bath, and subsequently water was added. The resulting mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was then purified using silica gel column chromatography (n-hexane:ethyl acetate=19:1). The purified product was concentrated under reduced pressure to thereby obtain 4.5 g of oily orange 1-tert-butoxy-4-fluoro-2-nitrobenzene (yield: 80%).

reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | 31.6 mmol, 3.55 g | CC(C)([O-])C.[K+]
reactant | 2,5-difluoronitrobenzene | 26.4 mmol, 4.2 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | water | O | H2O
solvent | Water | 2 ml | O | H2O
product | 1-tert-butoxy-4-fluoro-2-nitrobenzene | 4.5 g, yield: 80% | C(C)(C)(C)OC1=C(C=C(C=C1)F)[N+](=O)[O-] | C10H12FNO3
